US05378844
Preparation of 1,3-dipropyl-8-(1(N-ethoxycarbonylamino)cyclopentyl)xanthine
To a suspension of 4.5 g of 8-(1-aminocyclopentyl)-1,3-dipropylxanthine in 45 ml of anhydrous tetrahydrofurane 1.83 ml of pyridine and 1.97 ml of ethyl chloroformiate are added. The mixture is stirred for 2 hours at room temperature, followed by the addition of 1N HCl and extraction with ethyl acetate. The organic phase is washed with water, dried and evaporated to obtain 4.2 g of raw product, which is finally crystallized from ethanol/water.

reactant | 8-(1-aminocyclopentyl)-1,3-dipropylxanthine | 4.5 g | NC1(CCCC1)C1=NC=2N(C(N(C(C2N1)=O)CCC)=O)CCC | C16H25N5O2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | HCl | 1N | Cl | ClH
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofurane | 45 ml | O1CCCC1 | C4H8O
product | 1,3-dipropyl-8-(1(N-ethoxycarbonylamino)cyclopentyl)xanthine | 4.2 g | C(CC)N1C(=O)N(C=2N=C(NC2C1=O)C1(CCCC1)NC(=O)OCC)CCC | C19H29N5O4
